USRE029153
N-(4-nitrophenacyl)pyridinium bromide
To a suitable reaction vessel equipped with an agitator and thermometer is charged approximately 33 parts by weight of pyridine, approximately 100 parts by weight of 4-nitrophenacyl bromide, and about 600 parts by weight of benzene. The so charged mass is agitated for about 16 hours at room temperature, and thereafter the precipitate filtered off and dried. The product is N-(4-nitrophenacyl) pyridinium bromide, a white solid melting at 255-257° C., and which is soluble in water.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenacyl bromide | [N+](=O)([O-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrNO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-nitrophenacyl)pyridinium bromide | [Br-].[N+](=O)([O-])C1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C13H11N2O3.BrH/c16-13(10-14-8-2-1-3-9-14)11-4-6-12(7-5-11)15(17)18;/h1-9H,10H2;1H/q+1;/p-1
